US09079866B2
2-Bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide
The title compound was prepared in a manner similar to that described for Intermediate EU using 2-aminoethanol and 2-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride. 1H NMR (500 MHz, CD3OD) δ 8.35-8.30 (m, 1H), 8.07-7.98 (dd, J=8.2, 0.9, 1H), 7.82-7.76 (m, 1H), 3.59-3.50 (t, J=5.9, 2H), 3.10-3.02 (t, J=5.9, 2H).

reactant | 2-aminoethanol | NCCO | C2H7NO
reactant | 2-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
product | 2-Bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCCO | C9H9BrF3NO3S
